US07829580B2
(Z)-3-{[1-(2-Carboxyethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 4-7)
(Z)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene)-4-sulfanylpiperidine (the free base described in Example 171, 158 mg) was treated with 3N hydrochloric acid (5 ml) at 50° C. for 2 hours. The mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 35/65, v/v) to afford the title compound (156.6 mg, yield: 97%) as a colourless amorphous solid.

reactant | (Z)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene)-4-sulfanylpiperidine | C1(CC1)C(C(C1=C(C=CC=C1)F)N1C/C(/C(CC1)S)=C/C1=NN(C=C1)CCC(=O)OCC)=O | C25H30FN3O3S
reactant | hydrochloric acid | 3N, 5 ml | Cl | ClH
solvent | acetonitrile | 0.024 N | C(C)#N | C2H3N
product | (Z)-3-{[1-(2-Carboxyethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 156.6 mg, yield: 97% | Cl.C(=O)(O)CCN1N=C(C=C1)\C=C/1\CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C23H26FN3O3S.ClH/c24-19-4-2-1-3-18(19)22(23(30)15-5-6-15)26-10-8-20(31)16(14-26)13-17-7-11-27(25-17)12-9-21(28)29;/h1-4,7,11,13,15,20,22,31H,5-6,8-10,12,14H2,(H,28,29);1H/b16-13-;
